US05998039
Synthesis of 2-ethyl-4-phenylindene:
To a 50-ml three-necked round flask (equipped with a stirrer tip, a bead condenser, a dropping funnel and a thermometer) were introduced 0.84 g (1.69 mmol) of dimethylsilylene-bis(2-ethyl-4-phenylindene) and 17 ml of anhydrous ether, and then at room temperature, a solution of 2.25 ml (3.56 mmol) of n-butyllithium in hexane (concentration: 1.58 M) was dropwise added slowly. After the dropwise addition was completed, the reaction was performed for further 13.5 hours, the reaction solution was cooled to -70° C. in a dry ice/acetone bath, 0.395 g (1.69 mmol) of a ZrCl4 powder was added in portions, and the resulting mixture was stirred overnight. Then, the solvent was distilled off at room temperature under reduced pressure, 30 ml of methylene chloride was added, and the insoluble matters were filtered off. The filtrate was concentrated at room temperature to precipitate a solid which was filtered, washed twice with 3 ml of anhydrous ether and dried under reduced pressure to obtain 0.17 g of the aimed product as an orange yellow solid (yield: 15%). The properties of the product thus obtained are described below.

reactant | dimethylsilylene-bis(2-ethyl-4-phenylindene) | 1.69 mmol, 0.84 g | C[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)CC)(C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)CC)C | C36H36Si
reactant | ether | 17 ml | CCOCC | C4H10O
reactant | n-butyllithium | 3.56 mmol, 2.25 ml | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
catalyst | ZrCl4 | 1.69 mmol, 0.395 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | 2-ethyl-4-phenylindene | 0.17 g, yield: 15% | C(C)C=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C17H16
